US08420816B2
Methyl 3-formyl-1H-pyrrolo[2,3-b]pyridine-4-carboxylate (160 mg, 0.784 mmol) and tert-butyl 4-aminopiperidine-1-carboxylate (188 mg, 0.940 mmol) were combined in MeOH (3 mL) and THF (3 mL) at 50° C. for 3 H. Then sodium borohydride (59 mg, 1.567 mmol) was added at room temperature and allowed to stir for 10 min. The mixture was quenched with water and extracted with ethyl acetate. The organics were dried over MgSO4 and concentrated in vacuo to give methyl 3-((1-(tert-butoxycarbonyl)piperidin-4-ylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-4-carboxylate (60 mg) which was carried on to the next step. 1H NMR (400 MHz, CD3OD) δ 8.32 (d, 1H, J=5.1 Hz), 7.61-7.62 (m, 2H), 4.07-4.13 (m, 4H), 4.01 (s, 3H), 2.81-2.84 (m, 3H), 1.96-1.98 (m, 2H), 1.45-1.47 (m, 2H), 1.45 (s, 9H). [M+H] found 389.

reactant | Methyl 3-formyl-1H-pyrrolo[2,3-b]pyridine-4-carboxylate | 0.784 mmol, 160 mg | C(=O)C1=CNC=2N=CC=C(C21)C(=O)OC | C10H8N2O3
reactant | tert-butyl 4-aminopiperidine-1-carboxylate | 0.940 mmol, 188 mg | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | THF | 3 mL | C1CCOC1 | C4H8O
reactant | sodium borohydride | 1.567 mmol, 59 mg | [BH4-].[Na+]
solvent | MeOH | 3 mL | CO | CH4O
product | methyl 3-((1-(tert-butoxycarbonyl)piperidin-4-ylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-4-carboxylate | 60 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NCC1=CNC=2N=CC=C(C21)C(=O)OC | C20H28N4O4
